US07342118B2
4-(4-Nitro-imidazol-1-yl)-benzoic acid methyl ester
4-nitroimidazole (1 equiv) was combined with 4-iodo-methylbenzoate (1.2 equiv), cesium carbonate (1.0 equiv), copper (I) triflate (0.05 equiv), in DMF and heated overnight at 100° C. The solid was filtered and washed with methylene chloride, the resultant solvent was concentrated, and residue purified by silica gel chromatography to provide the title compound: MS m/z 248.2 (M+1).

reactant | 4-nitroimidazole | 1 equiv | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | 4-iodo-methylbenzoate | 1.2 equiv | IC1=CC(=C(C(=O)[O-])C=C1)C
reactant | cesium carbonate | 1.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper (I) triflate | 0.05 equiv | [O-]S(=O)(=O)C(F)(F)F.[Cu+]
product | 4-(4-Nitro-imidazol-1-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)[N+](=O)[O-])=O | C11H9N3O4
